### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Group/Circle): add MeasurableSpace/BorelSpace instances for the circle

### PR DESCRIPTION
**Pull request by teorth**
A new file `MeasureTheory/Group/Circle` is also created to record `MeasurableSpace` and `BorelSpace` instances for `Circle` (which also autogenerates some other instances such as `MeasurableMul Circle` or `CountablyGenerated Circle`), together with basic measurability API: `Circle.measurable_coe` and `Circle.measurable_iff`.

---

This PR was initially generated with AI assistance, but then reviewed by the author.  It is split off from a previous PR #43053 introducing other tangentially related results about `Circle`.

The API here will be used in a forthcoming PR for the prime number theorem.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/Circle.lean [hunk 1]
```diff
@@ -69,7 +69,12 @@ lemma coe_injective : Injective ((↑) : Circle → ℂ) := fun _ _ ↦ ext
 -- Not simp because `SetLike.coe_eq_coe` already proves it
 lemma coe_inj : (x : ℂ) = y ↔ x = y := coe_injective.eq_iff
 
-lemma norm_coe (z : Circle) : ‖(z : ℂ)‖ = 1 := mem_sphere_zero_iff_norm.1 z.2
+@[simp] lemma norm_coe (z : Circle) : ‖(z : ℂ)‖ = 1 := mem_sphere_zero_iff_norm.1 z.2
+
+@[simp] lemma nnnorm_coe (z : Circle) : ‖(z : ℂ)‖₊ = 1 := NNReal.coe_injective z.norm_coe
+
+@[simp] lemma enorm_coe (z : Circle) : ‖(z : ℂ)‖ₑ = 1 := by
+  rw [enorm_eq_nnnorm, z.nnnorm_coe, ENNReal.coe_one]
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Circle.lean]: If you want, you can prove the last one on the same line too, and then bunch them all together since they're all practically the same thing
```suggestion
@[simp] lemma norm_coe (z : Circle) : ‖(z : ℂ)‖ = 1 := mem_sphere_zero_iff_norm.1 z.2
@[simp] lemma nnnorm_coe (z : Circle) : ‖(z : ℂ)‖₊ = 1 := NNReal.coe_injective z.norm_coe
@[simp] lemma enorm_coe (z : Circle) : ‖(z : ℂ)‖ₑ = 1 := by simp [enorm_eq_nnnorm]
```

File: Mathlib/Analysis/Complex/Circle.lean [hunk 2]
```diff
@@ -203,6 +208,22 @@ protected lemma norm_smul {E : Type*} [SeminormedAddCommGroup E] [NormedSpace 
...
+
+@[simp]
+protected lemma enorm_smul {E : Type*} [SeminormedAddCommGroup E] [NormedSpace ℂ E]
+    (u : Circle) (v : E) :
+    ‖u • v‖ₑ = ‖v‖ₑ := by
+  rw [enorm_eq_nnnorm, enorm_eq_nnnorm, u.nnnorm_smul]
+
+instance {E : Type*} [SeminormedAddCommGroup E] [NormedSpace ℂ E] : IsIsometricSMul Circle E :=
+  ⟨fun u ↦ Isometry.of_dist_eq fun x y ↦ by
+    rw [dist_eq_norm, dist_eq_norm, ← smul_sub, Circle.norm_smul]⟩
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Circle.lean]:
```suggestion
  ⟨fun u ↦ Isometry.of_dist_eq fun x y ↦ by simp [dist_eq_norm, ← smul_sub]⟩
```

File: Mathlib/Analysis/Complex/Circle.lean [hunk 3]
```diff
@@ -203,6 +205,21 @@ protected lemma norm_smul {E : Type*} [SeminormedAddCommGroup E] [NormedSpace 
     ‖u • v‖ = ‖v‖ := by
   rw [smul_def, norm_smul, norm_eq_of_mem_sphere, one_mul]
 
+@[simp]
+protected lemma nnnorm_smul {E : Type*} [SeminormedAddCommGroup E] [NormedSpace ℂ E]
+    (u : Circle) (v : E) :
+    ‖u • v‖₊ = ‖v‖₊ := by
+  rw [smul_def, nnnorm_smul, u.nnnorm_coe, one_mul]
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Circle.lean]: can you not just directly go via the previous norm_smul result

File: Mathlib/Analysis/Complex/Circle.lean
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Circle.lean]: can you make a section from here so that you can declare these variables, since they appear in four lemmas

File: Mathlib/Analysis/Complex/Circle.lean [hunk 4]
```diff
@@ -196,13 +198,26 @@ instance instContinuousSMul [TopologicalSpace α] [MulAction ℂ α] [Continuous
...
+
+variable {E : Type*} [SeminormedAddCommGroup E] [NormedSpace ℂ E] (u : Circle) (v : E)
+
 set_option backward.isDefEq.respectTransparency false in
 @[simp]
-protected lemma norm_smul {E : Type*} [SeminormedAddCommGroup E] [NormedSpace ℂ E]
-    (u : Circle) (v : E) :
-    ‖u • v‖ = ‖v‖ := by
+protected lemma norm_smul : ‖u • v‖ = ‖v‖ := by
   rw [smul_def, norm_smul, norm_eq_of_mem_sphere, one_mul]
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Circle.lean]: can you remove the `set_option ...` and change the proof here to `simp [smul_def, norm_smul]`

and then you can group all these three norm results together like you did above

File: Mathlib/Analysis/Complex/Circle.lean
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Circle.lean:1]: splice-bot

**Comment by themathqueen** [comment]
Please merge master and update the title :)

File: Mathlib/MeasureTheory/Group/Circle.lean [hunk 5]
```diff
@@ -0,0 +1,31 @@
...
+
+/-!
+# Measure-theoretic results about the circle
+
+This file is a place to collect measure-theoretic results about `Circle`, the unit circle in `ℂ`.
+It equips it with the Borel structure inherited from the ambient subtype, which is what makes
+`Circle`-valued functions (such as the additive characters `Real.fourierChar` and `Real.probChar`)
+measurable.
+
+See `Mathlib/MeasureTheory/Group/AddCircle.lean` for the additive circle `ℝ / ℤ`.
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Group/Circle.lean]: This is a slightly misleading cross-reference, because the MeasurableSpace and BorelSpace instances on `ℝ / ℤ` are not defined in that file; they are special cases of more general instances for QuotientAddGroup defined in `Mathlib.MeasureTheory.MeasurableSpace.Constructions` and `Mathlib.MeasureTheory.Constructions.Polish.Basic` respectively.

File: Mathlib/MeasureTheory/Group/Circle.lean [hunk 6]
```diff
@@ -0,0 +1,31 @@
...
+-/
+
+@[expose] public section
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Group/Circle.lean]: Is this needed? I seem to recall someone telling me (in a review of another PR) that `@[expose]` acts only on defs, and instances are always exported; but this is not definitively documented at present, so I'm not 100% sure. (`BorelSpace` is Prop-valued anyway, so there is nothing to expose.)

Comment (themathqueen) [reply Mathlib/MeasureTheory/Group/Circle.lean]: I think you're right. There's no need for `@[expose]` here

**Comment by EtienneC30** [comment]
Can you update the description of the PR to not mention what was already merged please?

File: Mathlib/MeasureTheory/Group/Circle.lean
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Group/Circle.lean:1]: Could you add some API around these please? Primarily
```lean
protected lemma measurable_coe : Measurable fun (x : Circle) ↦ (x : ℂ) := measurable_subtype_coe

protected lemma measurable_iff {f : ℝ → Circle} : Measurable f ↔ Measurable fun x ↦ (f x : ℂ) :=
  measurable_comap_iff
```

**Comment by teorth** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Group/Circle.lean [hunk 7]
```diff
@@ -0,0 +1,40 @@
...
+
+namespace Circle
+
+instance : MeasurableSpace Circle := inferInstanceAs <| MeasurableSpace <| Subtype _
+
+instance : BorelSpace Circle :=
+  inferInstanceAs <| BorelSpace <| Subtype (· ∈ Metric.sphere (0 : ℂ) 1)
+
+@[fun_prop]
+protected lemma measurable_coe : Measurable fun x : Circle ↦ (x : ℂ) := measurable_subtype_coe
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Group/Circle.lean]: `fun_prop` can actually already prove this, so no need to tag it.

**Review by EtienneC30 — COMMENTED** [review]
Thanks!
maintainer delegate

**Comment by sgouezel** [comment]
bors d+
Thanks!
